US08026257B2
(±)-tert-Butyl 4-(4-fluorophenyl)-4-((1-(5-(trifluoromethyl)-1H-indol-7-yl)ethoxy)methyl)piperidine-1-carboxylate.
Enantiomers A and B of tert-butyl 4-(4-fluorophenyl)-4-((1-(1-methyl-5-(trifluoromethyl)-1H-indol-7-yl)ethoxy)methyl)piperidine-1-carboxylate. (±)-tert-butyl 4-(4-fluorophenyl)-4-((1-(1-methyl-5-(trifluoromethyl)-1H-indol-7-yl)ethoxy)methyl)piperidine-1-carboxylate (derived from tert-Butyl 4-(4-fluorophenyl)-4-((1-(5-(trifluoromethyl)-1H-indol-7-yl)ethoxy)methyl)piperidine-1-carboxylate by methylation) was subjected to chiral HPLC on a chiralcel OD-H column with a mobile phase of 95% CO2/5% ethanol/0.1% diethylamine. The early-eluting enantiomer is Enantiomer A of tert-butyl 4-(4-fluorophenyl)-4-((1-(1-methyl-5-(trifluoromethyl)-1H-indol-7-yl)ethoxy)methyl)piperidine-1-carboxylate and the late-eluting enantiomer is Enantiomer B of tert-butyl 4-(4-fluorophenyl)-4-((1-(1-methyl-5-(trifluoromethyl)-1H-indol-7-yl)ethoxy)methyl)piperidine-1-carboxylate.

reactant | tert-butyl 4-(4-fluorophenyl)-4-((1-(1-methyl-5-(trifluoromethyl)-1H-indol-7-yl)ethoxy)methyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COC(C)C=1C=C(C=C2C=CN(C12)C)C(F)(F)F | C29H34F4N2O3
reactant | CO2 | C(=O)=O | CO2
product | (±)-tert-Butyl 4-(4-fluorophenyl)-4-((1-(5-(trifluoromethyl)-1H-indol-7-yl)ethoxy)methyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COC(C)C=1C=C(C=C2C=CNC12)C(F)(F)F | C28H32F4N2O3
